US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-caboxymethylbenzoyl chloride (70 mg, 0.35 mmol). The final trituration (diethyl ether/hexane) and filtration gave 9.0 mg (7.0%) of 18-(4-carboxymethylbenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 99.9% pure (HPLC), MS m/z 729 (M−H)−, HRMS: calcd. 731.2962 and found 731.2957 (M+H)+, mp 154-156° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 4-caboxymethylbenzoyl chloride | 0.35 mmol, 70 mg | C(=O)(O)CC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
product | 18-(4-carboxymethylbenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 9.0 mg, 7.0% | C(=O)(O)CC1=CC=C(C(=O)OC2CN3C(C(CCCCCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=C1 | C35H46N4O11S
